US08227504B2
4-Imidazol-1-yl-N-{2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenyl}-benzamide
The title compound was prepared in a manner substantially the same as Example 1 by coupling 2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenylamine with 4-imidazol-1-yl-benzoic acid. MS: 444.3 (M+H).

reactant | 2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenylamine | CC1=C(C=CC(=C1)N1CC(CC1)CN1C(CCC1)C)N | C17H27N3
reactant | 4-imidazol-1-yl-benzoic acid | N1(C=NC=C1)C1=CC=C(C(=O)O)C=C1 | C10H8N2O2
product | 4-Imidazol-1-yl-N-{2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenyl}-benzamide | N1(C=NC=C1)C1=CC=C(C(=O)NC2=C(C=C(C=C2)N2CC(CC2)CN2C(CCC2)C)C)C=C1 | C27H33N5O
